US05242945
To a stirring solution of 554 mg (5.54 mmol) of tetronic acid in 20 mL of diemthylformamide is added 850 μL (6.09 mmol) of triethylamine and 220 mg (1.765 mmol) of 4-dimethylaminopyridine at 0° C. Next, 1.26 g (6.63 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 1.475 g (6.63 mmol) of 6-[4-(hexyloxy)phenoxy]hexanoic acid are added and the reaction mixture is stirred 2 days at room temperature. The reaction is acidified with 1.0N HCl and extracted three times with ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo giving a yellow solid. Pure material is obtained by trituration in ether, filtering to give 774 mg (43%) of 4-hydroxy-3-[6-(4-chlorophenoxy)-1-oxohexyl]-2(5H)-furanone.

reactant | tetronic acid | 5.54 mmol, 554 mg | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 6.09 mmol, 850 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.63 mmol, 1.26 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-[4-(hexyloxy)phenoxy]hexanoic acid | 6.63 mmol, 1.475 g | C(CCCCC)OC1=CC=C(OCCCCCC(=O)O)C=C1 | C18H28O4
reactant | HCl | 1.0N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1.765 mmol, 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | CCOCC | C4H10O
product | 4-hydroxy-3-[6-(4-chlorophenoxy)-1-oxohexyl]-2(5H)-furanone | 774 mg, 43% | OC1=C(C(OC1)=O)C(CCCCCOC1=CC=C(C=C1)Cl)=O | C16H17ClO5
